US06162791
A solution of N-L-leucyl-L-proline methyl ester hydrochloride (5.6 g, 20 mmol, prepared according to the procedure by Jones, J. B. et al. in J. Med. Chem. 1995, 38, 3078) and triethylamine (5.6 mL, 40 mmol) in DMF (60 mL) was stirred at room temperature for 15 min. Then, a solution of 5-chloro-3-methoxy-[1,2,4]thiadiazole (1.51 g, 10 mmol) in DMF (10 mL) and tetrabutylammonium bromide (150 mg) were added and the resulting mixture was stirred at room temperature for 24 h. The reaction mixture was quenched with water and extracted into ethyl acetate. The organic layer was washed with a saturated solution of sodium bicarbonate, brine, dried (sodium sulfate), filtered and concentrated in vacuo. Purification by column chromatography on silica gel using a mixture of hexane and ethyl acetate (7/3 and 6/4) afforded N-(3-methoxy-[1,2,4]thiadiazol-5-yl)-L-leucyl-L-proline methyl ester (1.92 g, 53.9%) as as an off-white foam. 1H-NMR (CDCl3) δ7.10 (d, J=8.5 Hz, 1H, NHCH), 4.74 (m, 1H, NHCH), 4.57 (dd, J=8.6, 4.6 Hz, 1H, CHCO2), 3.92 (s, 3H, OMe), 3.85 (m, 1H), 3.69 (s, 3H, OMe), 3.62 (m, 1H), 2.17-2.23 (m, 1H), 1.95-2.07 (m, 4H), 1.77-1.82 (m, 1H), 1.59-1.66 (m,1H), 0.97 (d, J=6.5 Hz, 3H, Me), 0.94 (d, J=6.7 Hz, 3H, Me); MS (m/z) 357 (M+ +1), 228, 200, 130, 101, 70.

reactant | N-L-leucyl-L-proline methyl ester hydrochloride | Cl.COC([C@H]1N(CCC1)C([C@@H](N)CC(C)C)=O)=O
reactant | triethylamine | 40 mmol, 5.6 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-3-methoxy-[1,2,4]thiadiazole | 10 mmol, 1.51 g | ClC1=NC(=NS1)OC | C3H3ClN2OS
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium bromide | 150 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N-(3-methoxy-[1,2,4]thiadiazol-5-yl)-L-leucyl-L-proline methyl ester | 1.92 g, 53.9% | COC([C@H]1N(CCC1)C([C@@H](NC1=NC(=NS1)OC)CC(C)C)=O)=O | C15H24N4O4S
